US09403808B2
5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (2-cyclobutyl-1-dimethylcarbamoyl-ethyl)-amide
The title compound was synthesized in analogy to Example 69, using 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (Example 10 g, 50 mg, 0.21 mmol) and 2-amino-3-cyclobutyl-N,N-dimethyl-propionamide (54.48 mg, 0.32 mmol) as starting materials and isolated (20 mg, 24.3%) as white solid; LC-MS (UV peak area, ESI) 100%, 387.2 (M+H)+.

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid | 0.21 mmol, 10 g | C1(CC1)C=1N=CC(=NC1OCC1CC1)C(=O)O | C12H14N2O3
reactant | 2-amino-3-cyclobutyl-N,N-dimethyl-propionamide | 0.32 mmol, 54.48 mg | NC(C(=O)N(C)C)CC1CCC1 | C9H18N2O
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (2-cyclobutyl-1-dimethylcarbamoyl-ethyl)-amide | C1(CCC1)CC(C(N(C)C)=O)NC(=O)C1=NC(=C(N=C1)C1CC1)OCC1CC1 | C21H30N4O3
